### PR TITLE
feat(ErdosProblems): formalise Erdős Problem 302

### LINKED ISSUE #4652: Erdős Problem 302
### What is the Erdős problem?

https://www.erdosproblems.com/302

> Let $f(N)$ be the size of the largest $A\subseteq \{1,\ldots,N\}$ such that there are no solutions to
> $$\frac{1}{a}= \frac{1}{b}+\frac{1}{c}$$
> with distinct $a,b,c\in A$? Estimate $f(N)$. In particular, is $f(N)=(\tfrac{1}{2}+o(1))N$?

Status: open

### A note on which part is open

The problem page asks two things, and I would like to check my reading of them before the statements land in the repository.

The headline question — is $f(N) = (\tfrac12 + o(1))N$? — appears to be **answered in the negative by material recorded further down the same page**: Stijn Cambie's observation that
$$f(N) \geq (5/8 + o(1))N,$$
taking $A$ to be all odd integers $\leq N/4$ together with all integers in $[N/2, N]$. Since $5/8 > 1/2$, the two cannot both hold.

If that reading is right, formalising $f(N) = (\tfrac12+o(1))N$ as `research open` would be a misformalisation, so I plan to state it as `research solved` instead (in the negative), and to put the **estimation of $f(N)$** in `research open`. The known bounds
$$(5/8 + o(1))N \leq f(N) \leq (9/10 + o(1))N$$
(Cambie; Wouter van Doorn) would go in as `research solved` variants.

I would welcome a correction if I have misread either bound.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Douris**
Closes #4652.

Formalises [Erdős Problem 302](https://www.erdosproblems.com/302): $f(N)$ is the size of the largest $A \subseteq \{1,\ldots,N\}$ admitting no solution to $\frac1a = \frac1b + \frac1c$ with distinct $a,b,c \in A$.

### Which statement is `research open`, and why

The page's headline question — is $f(N) = (\tfrac12+o(1))N$? — appears to be contradicted by material recorded further down the same page: Cambie's lower bound $f(N) \geq (5/8+o(1))N$. Since $5/8 > 1/2$, I have stated that question as `research solved` in the negative (`variants.not_half`) rather than as `research open`, and put the **estimation of $f(N)$** in `research open` instead.

I would welcome a correction if I have misread either bound — this is the part of the PR that most needs a second pair of eyes.

### Contents

| Declaration | Category |
|---|---|
| `NoUnitFractionTriple`, `IsMaxNoTripleCard` | definitions |
| `erdos_302` — estimation of $f(N)$, limit left as `answer(sorry)` | `research open` |
| `variants.lower_half` — $(1/2+o(1))N$, odd integers or $[N/2,N]$ | `research solved` |
| `variants.lower_five_eighths` — Cambie | `research solved` |
| `variants.upper_nine_tenths` — van Doorn | `research solved` |
| `variants.not_half` — the headline question, in the negative | `research solved` |
| `test.empty_isNoTriple` | `test` (proved) |

### Checks

- `lake build FormalConjectures.ErdosProblems.«302»` succeeds on `leanprover/lean4:v4.27.0`, with the repository's linters active (`AMSLinter`, `CategoryLinter`, `AnswerLinter`, `LatexDocstringLinter`, `ModuleDocstringLinter`, `CategoryDocstringLinter`) and no warnings.
- One `@[category]` per statement, `@[AMS 11]` throughout, reference comment to the source page.
- No new files needed in `FormalConjecturesForMathlib`.
- The colouring version of this problem is [303], solved by Brown and Rödl; see also [301] and [327].

### CODE REVIEW

File: FormalConjectures/ErdosProblems/302.lean [hunk 1]
```diff
@@ -0,0 +1,104 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjecturesUtil
+
+/-!
+# Erdős Problem 302
+
+*Reference:* [erdosproblems.com/302](https://www.erdosproblems.com/302)
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/302.lean]:
```suggestion
*References:*
- [erdosproblems.com/302](https://www.erdosproblems.com/302)
- [BrRo91] Brown, Tom C. and Rödl, Voijtech, Monochromatic solutions to equations with unit fractions. Bull. Austral. Math. Soc. (1991), 387-392.
- [ErGr80] Erdős, P. and Graham, R., Old and new problems and results in combinatorial number theory. Monographies de L'Enseignement Mathematique (1980).
- [va25](https://github.com/Woett/Mathematical-shorts/blob/main/Two-colouring%20and%20density%20lead%20to%20solutions%20to%20an%20equation%20in%20unit%20fractions.pdf)
```

Let's add some references

File: FormalConjectures/ErdosProblems/302.lean [hunk 2]
```diff
@@ -0,0 +1,104 @@
...
+
+open Filter Finset
+open scoped Topology
+
+namespace Erdos302
+
+/--
+A finite set `A` of positive integers admits no solution to
+$\frac{1}{a} = \frac{1}{b} + \frac{1}{c}$ with `a`, `b`, `c` distinct elements of `A`.
+-/
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/302.lean:39]:
```suggestion
A finite set $A$ of positive integers admits no solution to
$\frac{1}{a} = \frac{1}{b} + \frac{1}{c}$ with $a, b, c$ distinct elements of $A$.
```

Avoid using backticks and use LaTeX markdown instead.

File: FormalConjectures/ErdosProblems/302.lean [hunk 3]
```diff
@@ -0,0 +1,104 @@
...
+def NoUnitFractionTriple (A : Finset ℕ) : Prop :=
+  ∀ a ∈ A, ∀ b ∈ A, ∀ c ∈ A, a ≠ b → a ≠ c → b ≠ c →
+    (1 : ℚ) / a ≠ (1 : ℚ) / b + (1 : ℚ) / c
+
+/--
+`f N` is the size of the largest `A ⊆ {1, …, N}` containing no solution to
+$\frac{1}{a} = \frac{1}{b} + \frac{1}{c}$ with distinct `a`, `b`, `c ∈ A`.
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/302.lean]:
```suggestion
$f N$ is the size of the largest $A ⊆ {1, …, N}$ containing no solution to
$\frac{1}{a} = \frac{1}{b} + \frac{1}{c}$ with distinct $a, b, c ∈ A$.
```

File: FormalConjectures/ErdosProblems/302.lean [hunk 4]
```diff
@@ -0,0 +1,104 @@
...
+  IsGreatest {k | ∃ A ⊆ Finset.Icc 1 N, NoUnitFractionTriple A ∧ A.card = k} m
+
+/--
+Let $f(N)$ be the size of the largest $A\subseteq\{1,\ldots,N\}$ such that there are no
+solutions to
+$$\frac{1}{a} = \frac{1}{b} + \frac{1}{c}$$
+with distinct $a,b,c \in A$. Estimate $f(N)$.
+-/
+@[category research open, AMS 11]
+theorem erdos_302 (f : ℕ → ℕ) (hf : ∀ N, IsMaxNoTripleCard N (f N)) :
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/302.lean]: It looks like this problem is a two parter. Can you create two separate theorems, one for `Estimate f(N)` and another for `In particular, is f(N) = (1/2 + o(1))N?`

This one should be labeled `erdos_302.parts.i` and the second one should be labeled `erdos_302.parts.ii`. parts.ii can is just erdos_302.variants.not_half down below, so rename it to `erdos_302.parts.ii`

File: FormalConjectures/ErdosProblems/302.lean [hunk 5]
```diff
@@ -0,0 +1,104 @@
...
+    Tendsto (fun N : ℕ => (f N : ℝ) / N) atTop (𝓝 answer(sorry)) := by
+  sorry
+
+/--
+Taking $A$ to be all odd integers in $[1,N]$, or all integers in $[N/2,N]$, gives
+$f(N) \geq (1/2 + o(1))N$.
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/302.lean]:
```suggestion
One can take either $A$ to be all odd integers in $[1,N]$ or all integers in $[N/2,N]$ to show $f(N)\geq (1/2+o(1))N$.
```

Let's try to keep the docstrings verbatim to the website.

File: FormalConjectures/ErdosProblems/302.lean [hunk 6]
```diff
@@ -0,0 +1,104 @@
...
+-/
+@[category research solved, AMS 11]
+theorem erdos_302.variants.lower_five_eighths (f : ℕ → ℕ) (hf : ∀ N, IsMaxNoTripleCard N (f N))
+    (ε : ℝ) (hε : 0 < ε) :
+    ∀ᶠ N : ℕ in atTop, ((5 : ℝ) / 8 - ε) * N ≤ f N := by
+  sorry
+
+/--
+Wouter van Doorn has proved that
+$$f(N) \leq (9/10 + o(1))N.$$
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/302.lean]:
```suggestion
Wouter van Doorn has proved [va25] that
$$f(N) \leq (9/10 + o(1))N.$$
```

Let's add a reference to van Doorn's proof.

File: FormalConjectures/ErdosProblems/302.lean [hunk 7]
```diff
@@ -0,0 +1,104 @@
...
+    ¬ Tendsto (fun N : ℕ => (f N : ℝ) / N) atTop (𝓝 ((1 : ℝ) / 2)) := by
+  sorry
+
+/--
+The colouring version of this problem is Erdős Problem 303, solved by Brown and Rödl.
+-/
+@[category test, AMS 11]
+theorem erdos_302.test.empty_isNoTriple : NoUnitFractionTriple (∅ : Finset ℕ) := by
+  simp [NoUnitFractionTriple]
+
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/302.lean]: You could arguably remove this since this is just erdos_303. I personally would add this docstring in `erdos_302.parts.i` to note that it's related to erdos_303.

**Review by danielchin — DISMISSED** [review]

**Comment by Douris** [comment]
Thanks for the careful review — all seven points are addressed in 2bf0069.

- **References.** Added [BrRo91], [ErGr80] and [va25] to the module docstring. I did not have van Doorn's note; thanks for the link.
- **LaTeX instead of backticks** in the two definition docstrings.
- **Two parters.** `erdos_302.parts.i` is now the estimate of $f(N)$, and the former `variants.not_half` is renamed `erdos_302.parts.ii`. It stays `research solved`, since the answer to that second question appears to be no: Cambie's $(5/8+o(1))N$ lower bound, recorded on the same page, contradicts $(1/2+o(1))N$. Please correct me if I have misread either bound — that is still the part of this PR I am least sure of.
- **Verbatim docstrings.** Aligned to the website wording throughout, including Cambie's construction.
- **van Doorn** now cites [va25].
- **Test lemma dropped**, and the link to [303] moved into the `parts.i` docstring as you suggested.

`lake build FormalConjectures.ErdosProblems.«302»` passes.

-awaiting-author

**Review by mo271 — APPROVED** [review]
Thanks, LGTM

Also thanks to @danielchin for the review pass!
